US05442039
4,4'-dihydroxybenzophenone (100.0 grams, 0.467 mole) is added to ethanol (300 milliliters) in a 1 liter Erlenmeyer flask and stirred. After dissolution of the 4,4'-dihydroxybenzophenone, a solution of hydroxylamine hydrochloride (48.6 grams, 0.699 mole) and sodium acetate (57.4 grams, 0.700 mole) in deionized water (70 milliliters) is added followed by an additional 100 milliliters of ethanol. This mixture is stirred and heated on a hot plate to a gentle reflux (75° C.). After heating for 4 hours, the solution is allowed to cool to room temperature (25° C.) with stirring and then filtered. The filter cake is washed with ethanol (100 milliliters); then the total filtrant obtained (600.4 grams) is concentrated to a weight of 219.2 grams by evaporation of the ethanol and water. The concentrated solution is placed into a 1 liter Erlenmeyer flask then stirred as 600 milliliters of deionized water is added. The addition of the deionized water induced formation of a white precipitate. After thirty minutes of stirring, the mixture is filtered. The solid 4,4'-dihydroxybenzophenone oxime thus obtained weighed 98.22 grams after drying. 4,4'-Dihydroxybenzophenone oxime (66.0 grams, 0.288 mole) and glacial acetic acid (330 milliliters) are added to a 500 milliliter round bottom flask equipped with a stirrer, water cooled condensor, nitrogen purge and heating mantle. A catalytic amount of p-toluenesulfonic acid (1.85 grams, 0.027 mole) is added and the reaction mixture then heated to 83° C. After heating for approximately two hours, a precipitate formed and the mixture is stirred for an additional two hours at 87° C. After this time, 25 milliliters of deionized water is added to the reactor and after thirty minutes, the contents of the reactor is transferred to a 1 liter Erlenmeyer flask and maintained therein with stirring. Immediately following the transfer, 400 milliliters of deionized water is added to the flask. The mixture is stirred for forty five minutes and then filtered. The filter cake thus obtained is washed with 800 milliliters of deionized water and then dried. The resultant light beige colored solid weighed 54.82 grams. Fourier transform infrared spectrophotometric analysis of a portion of the product confirmed the product structure as that of 4,4'-dihydroxybenzanilide. Differential scanning calorimetry demonstrated a sharp melting point endotherm at 273° C. for the 4,4'-dihydroxybenzanilide product.

reactant | 4,4'-dihydroxybenzophenone | 0.467 mole, 100.0 grams | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | ethanol | 300 milliliters | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 0.699 mole, 48.6 grams | Cl.NO
reactant | sodium acetate | 0.700 mole, 57.4 grams | C(C)(=O)[O-].[Na+]
reactant | ethanol | 100 milliliters | C(C)O | C2H6O
solvent | water | 70 milliliters | O | H2O
product | 4,4'-dihydroxybenzophenone oxime | OC1=CC=C(C(C2=CC=C(C=C2)O)=NO)C=C1 | C13H11NO3
